US04180522
In the manner given in Example 1, 3,4-dibromoaniline, 1-chloro-3-dimethylaminopropane hydrochloride, sodium carbonate and sodium bicarbonate are heated in toluene to give N,N-dimethyl-(3,4-dibromophenyl)trimethylenediamine.

reactant | 3,4-dibromoaniline | BrC=1C=C(N)C=CC1Br | C6H5Br2N
reactant | 1-chloro-3-dimethylaminopropane hydrochloride | Cl.ClCCCN(C)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-(3,4-dibromophenyl)trimethylenediamine | CN(CCCNC1=CC(=C(C=C1)Br)Br)C | C11H16Br2N2
